### PR TITLE
Proof of `ent_of_sub_smul_le`

### PR DESCRIPTION
**Pull request by pitmonticone**
- [x] Fix blueprint 
- [x] Proof of `ent_of_sub_smul_le `
- [x] Golf proof of `rdist_of_neg_le`

### CODE REVIEW

File: PFR/MoreRuzsaDist.lean [hunk 1]
```diff
@@ -460,27 +460,31 @@ lemma ent_of_sub_smul_le {Y : Ω → G} [IsProbabilityMeasure μ] [Fintype G]
...
   have iX₂nY : IndepFun X'₂ (-Y') μ' := iYX₂.symm.comp measurable_id measurable_neg
 
-  have idX₁X₂' : IdentDistrib X'₁ X'₂ μ' μ' := by
-    refine IdentDistrib.trans ?_ idX₂.symm
-    rw [← neg_neg X]
-    simp_rw [X'₁]
-    exact IdentDistrib.neg idX₁
+  let φ : Fin 3 → G → G
+    | 0 => (fun x ↦ - x)
+    | 1 | 2 => id
```
Comment (YaelDillies) [inline PFR/MoreRuzsaDist.lean:475]:
```suggestion
  let φ : Fin 3 → G → G := ![-id, id, id]
```
if you fancy

Comment (pitmonticone) [reply PFR/MoreRuzsaDist.lean:475]: We are working on it right now. Integrated it. Thanks a lot.
